US05952362
1. Preparation of 3-amino-4-chloro-o-cresol
To a stirred solution of 3-amino-o-cresol (60 g) in anhydrous methanesulfonic acid (300 ml) was added N-chlorosuccinimide (68.3 g in five equal portions) over 2 h and 10 min, keeping the reaction temperature between 10 and 12° C. by use of a cooling bath. The dark mixture was allowed to stir overnight and warm to room temperature. It was then added to 1000 ml water with stirring (final temperature approx. 51° C.). Concentrated ammonium hydroxide (370 ml) was added with stirring, keeping the temperature between 50 and 60° C. by use of a cooling bath. The product crystallized out near the end of the addition at 50-53° C. The product slurry was cooled to ice bath temperature and held for 1 h. The product, isolated in 70.5% yield by filtration, washing with ice water, and drying in vacuo at 50° C., was 98.44% pure by area-normalized HPLC with correction for relative response factors. It contained only 0.8% of the 6-chloro isomer and 0.68% of the 4,6-dichloro impurity. Recrystallization from isopropanol-water with charcoal treatment gave, in 94% recovery, purified product that was 99.67% pure by HPLC (mp 143-144° C.).

reactant | 3-amino-o-cresol | 60 g | NC1=C(C(=CC=C1)O)C | C7H9NO
reactant | N-chlorosuccinimide | 68.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 1000 ml | O | H2O
reactant | ammonium hydroxide | 370 ml | [OH-].[NH4+]
solvent | methanesulfonic acid | 300 ml | CS(=O)(=O)O | CH4O3S
product | 3-amino-4-chloro-o-cresol | 70.5% yield | NC1=C(C(=CC=C1Cl)O)C | C7H8ClNO
